data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4180,4783,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8]#[N:9])=[O+:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH2:2][C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:10][C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8]#[N:9],water,298.15,12.974312768723266,-44.041820097871245
215,235,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[CH3:18].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[NH:15][C:16]3([CH3:17])[CH3:18],water,298.15,16.43114532502373,-48.69668167789006
3393,3853,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[CH:16][C:17]#[N:18]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[O:15][CH:16]2[C:17]#[N:18],water,298.15,2.0698632098297205,-52.27421951960802
2762,3068,[CH3:23][O:24][C:25](=[O:26])[CH:27]=[O+:28][C-:29]([C:30](=[O:31])[O:32][CH3:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1.[F:1][C:2]([F:3])([F:4])/[C:5](=[C:6](\[c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[C:13]([F:14])([F:15])[F:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[F:1][C:2]([F:3])([F:4])[C@@:5]1([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C@:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([C:13]([F:14])([F:15])[F:16])[C:29]([C:30](=[O:31])[O:32][CH3:33])([c:34]2[cH:35][cH:36][cH:37][cH:38][cH:39]2)[O:28][CH:27]1[C:25]([O:24][CH3:23])=[O:26],water,298.15,22.17383221558891,-13.757504766728983
1234,1346,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:21]([CH3:22])([C:23]([CH3:24])=[O:25])[N:19]([CH3:20])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,24.21827194633553,-20.81887074011641
3379,3839,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8]([C:9]#[N:10])=[O+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:8]([CH3:7])([C:9]#[N:10])[O:11][CH:12]1[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,7.790693616392592,-39.75124788099585
39,46,[CH3:9][CH:10]=[O+:11][CH-:12][C:13]([CH3:14])=[O:15].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:12]([C:13]([CH3:14])=[O:15])[O:11][CH:10]3[CH3:9],water,298.15,11.138215597379675,-62.71870346627578
4927,5612,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24]#[N:25])[C:26]#[N:27]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]([C:24]#[N:25])([C:26]#[N:27])[NH:22][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,28.982742017129432,6.249255258692759
1765,1956,[CH3:12][O:13][C:14](=[O:15])[CH:16]=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[Cl:1][C:2]([Cl:3])=[C:4]([Cl:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[Cl:1][C:2]1([Cl:3])[C:4]([Cl:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:19]([C:20]([CH3:21])=[O:22])([C:23]([CH3:24])=[O:25])[N:17]([CH3:18])[CH:16]1[C:14]([O:13][CH3:12])=[O:15],water,298.15,32.94373202257763,-3.7874142559029456
2968,3317,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[NH-:5][NH+:6]=[N:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[NH:5][NH:6][N:7]1[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,water,298.15,33.56140094768364,-10.919283786834129
2383,2648,[CH3:19][O:20][C:21](=[O:22])[C:23]([C:24](=[O:25])[O:26][CH3:27])=[N+:28]([CH3:29])[CH-:30][C:31]([CH3:32])=[O:33].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:30]([C:31]([CH3:32])=[O:33])[N:28]([CH3:29])[C:23]2([C:21]([O:20][CH3:19])=[O:22])[C:24](=[O:25])[O:26][CH3:27],water,298.15,20.85905824137209,-43.1182448428774
1510,1665,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([NH+:21]=[CH:22][C:23]#[N:24])[C:25]([CH3:26])=[O:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:25]([CH3:26])=[O:27])[NH:21][CH:22]2[C:23]#[N:24],water,298.15,18.89221147074425,-15.975726750528676
